US09108946B2
Alternate synthetic route to: 3-(3-Chloro-1H-pyrazol-1-yl)pyridine (5b)
3-(3-Chloro-4,5-dihydro-1H-pyrazol-1-yl)pyridine (362 mg, 2.0 mol) was introduced into a 25 mL vial. Potassium hydroxide solution (658 mg, 85% pure) in water (H2O) (4.0 mL) was added and the mixture was heated to 60° C. Potassium ferricyanide solution (656 mg in 1.0 mL water) was added over 15 minutes leading to brown mixture. The mixture was stirred at 62° C. for another 15 minutes. Potassium persulfate solution (270 mg, 1.0 mmol, 0.5 eq.) in water (1.0 mL) was added in one portion. The mixture was stirred at 60° C. and monitored by LC. Additional two portions of potassium persulfate solution (270 mg, 1.0 mmol, 0.5 eq.) in water (1.0 mL) was added at 1.5 hours and at 2.5 hours. The reaction mixture was stirred for a total 4.5 hours and LC indicated 88.0% conversion. The mixture was then stirred at 75° C. for 1.5 hours and LC indicated >90% conversion. After filtration, the filter cake was washed with water (10 mL) affording crude product as a pale brown solid. The crude product was then washed with acetonitrile (2×15 mL). The organic filtrate was dried and concentrated to afford desired product as light brown solid (328 mg, 91.6%, 94.0% pure by LC).

reactant | 3-(3-Chloro-4,5-dihydro-1H-pyrazol-1-yl)pyridine | 2.0 mol, 362 mg | ClC1=NN(CC1)C=1C=NC=CC1 | C8H8ClN3
reactant | Potassium hydroxide | 658 mg | [OH-].[K+]
reactant | Potassium persulfate | 1.0 mmol, 270 mg, 0.5 eq. | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | potassium persulfate | 1.0 mmol, 270 mg, 0.5 eq. | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
solvent | water | 4.0 mL | O | H2O
solvent | water | 1.0 mL | O | H2O
solvent | water | 1.0 mL | O | H2O
catalyst | Potassium ferricyanide | 1.0 mL, 656 mg | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
product | 3-(3-Chloro-1H-pyrazol-1-yl)pyridine | 328 mg | ClC1=NN(C=C1)C=1C=NC=CC1 | C8H6ClN3
